US05134231
Methyl 4-ethoxycarbonyl-3-oxopentanoate (200 ml; 1.06 mmole) was dissolved in dry methanol (2.5 ml), and benzylamine (386 mg; 3.6 mmole) and molecular sieve 3A (0.3 g) were added thereto. A solution of acetyl chloride (170 mg; 2.17 mmole) in dry methanol (0.9 ml) was added to the resultant mixture, followed by allowing to stand at room temperature for 16 hours. Molecular sieve was removed by filtraton, and the filtrate was diluted with ethyl acetate, washed successively with a saturated sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved in toluene (2.5 ml). Gaseous ketene was introduced therein at room temperature. After completion of the reaction, the solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography to give methyl ethyl 2-acetyl-3-benzylamino-4-methyl-2-pentenedioate.

reactant | Methyl 4-ethoxycarbonyl-3-oxopentanoate | 1.06 mmole, 200 ml | C(C)OC(=O)C(C(CC(=O)OC)=O)C | C9H14O5
reactant | benzylamine | 3.6 mmole, 386 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | acetyl chloride | 2.17 mmole, 170 mg | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 2.5 ml | CO | CH4O
solvent | methanol | 0.9 ml | CO | CH4O
product | methyl ethyl 2-acetyl-3-benzylamino-4-methyl-2-pentenedioate | C(C)(=O)C(C(=O)OC)=C(C(C(=O)OCC)C)NCC1=CC=CC=C1 | C18H23NO5
